US05977101
a) 2-Bromomethylbenzothiazole
A mixture of 2-methylbenzothiazole (2.0 g, 13.40 mmol), N-bromosuccinimide (2.39 g, 13.40 mmol), and AIBN (0.5 g, 3.04 mmol) in CCl4 (40 mL) was refluxed for 12 h, then the mixture was cooled and filtered. The filtrate was concentrated and purified by silica gel chromatography (5% EtOAc/hexane) to give the title compound (2.19 g, 72%) as a yellow oil: 1H NMR (250 MHz, DMSO-d6): δ 5.12 (s, 2H), 7.5 (m, 2H), 8.01 (dd, J=7.9, 1.8 Hz, 1H), 8.15 (dd, J=7.9, 1.8 Hz 1H).

reactant | 2-methylbenzothiazole | 13.40 mmol, 2.0 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | N-bromosuccinimide | 13.40 mmol, 2.39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 3.04 mmol, 0.5 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethylbenzothiazole | 2.19 g, 72% | BrCC=1SC2=C(N1)C=CC=C2 | C8H6BrNS
